US04996358
0.4 g of [N-formyl-N-benzyloxy 2(RS)-isobutyl-3-aminopropionyl]-L-leucylglycine ethyl ester in 20 ml of ethanol was hydrogenated for 0.75 hour in the presence of 5% palladium/carbon. The mixture was filtered, the filtrate was evaporated and the residue was dried in vacuo to yield 0.32 g (98%) of [N-formyl-N-hydroxy 2(RS)-isobutyl-3-aminopropionyl]-L-leucylglycine ethyl ester as a foam.

reactant | [N-formyl-N-benzyloxy 2(RS)-isobutyl-3-aminopropionyl]-L-leucylglycine ethyl ester | 0.4 g | C(C)OC(CNC([C@@H](NC(C(CN(OCC1=CC=CC=C1)C=O)CC(C)C)=O)CC(C)C)=O)=O | C25H39N3O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | [N-formyl-N-hydroxy 2(RS)-isobutyl-3-aminopropionyl]-L-leucylglycine ethyl ester | 0.32 g, 98% | C(C)OC(CNC([C@@H](NC(C(CN(O)C=O)CC(C)C)=O)CC(C)C)=O)=O | C18H33N3O6
